US08309725B2
1.5 Preparation of (4aRS,5SR,8aRS)-5-amino-1-benzylperhydroquinoxaline-2,3-dione
(4aRS,5SR,8aRS)-1-Benzyl-5-(benzylamino)perhydroquinoxaline-2,3-dione (1.19 g, 3.28 mmol) was dissolved in methanol (40 ml) and NH4HCO2 (2.07 g, 32.8 mmol) was added. 120 mg of palladium-on-carbon (Merck) was furthermore added. The mixture was heated under reflux for 2 hours. The catalyst was then filtered off and the mixture was evaporated in vacuo. The residue was taken up in CH2Cl2 and the mixture was washed three times with 0.1 N NaOH. The organic phase was dried over Na2SO4 and evaporated in vacuo. A colorless solid was obtained.

reactant | (4aRS,5SR,8aRS)-1-Benzyl-5-(benzylamino)perhydroquinoxaline-2,3-dione | 3.28 mmol, 1.19 g | C(C1=CC=CC=C1)N1C(C(NC2C(CCCC12)NCC1=CC=CC=C1)=O)=O | C22H25N3O2
solvent | methanol | 40 ml | CO | CH4O
catalyst | palladium-on-carbon | 120 mg | [Pd] | Pd
product | (4aRS,5SR,8aRS)-5-amino-1-benzylperhydroquinoxaline-2,3-dione | NC1C2NC(C(N(C2CCC1)CC1=CC=CC=C1)=O)=O | C15H19N3O2
